US07132533B2
A solution of nitroethane and phenyl isocynate in 8 ml of benzene was stirred at 50° C. for 5 minutes before ethynyltri-n-butyltin in 8 ml of benzene containing one droplet of Et3N was added. The mixture was stirred at 50° C. for 14 hours. The reaction mixture was then quenched with water and filtered through celite. The filtrate was extracted with EtOAc, dried with Na2SO4. Silica Chromatography using Hexance/EtOAc afforded 3-methyl-5-(tributylstannyl)isoxazole, 6.30 g, 85% yield.

reactant | nitroethane | [N+](=O)([O-])CC | C2H5NO2
reactant | phenyl isocynate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | ethynyltri-n-butyltin | C(#C)[Sn](CCCC)(CCCC)CCCC
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
product | 3-methyl-5-(tributylstannyl)isoxazole | 85% yield | CC1=NOC(=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C4H4NO.3C4H9.Sn/c1-4-2-3-6-5-4;3*1-3-4-2;/h2H,1H3;3*1,3-4H2,2H3;
